US07183283B2
5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-propylamino}-2-methyl-2H-pyridazine-3-one
Into a pressure-tight hydrogenating apparatus 1.64 g (0.0039 mole) of 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-propylamino}-4-chloro2-methyl-2H-pyridazine-3-one, 150 ml of a solvent mixture (9:1 mixture of methanol and distilled water), 0.18 g (0.0456 mole) of sodium hydroxide and 3.2 g of a palladium/charcoal catalyst (composition: 8% of palladium, 28% of carbon and 64% of water) are weighed in. The reaction mixture is stirred at a hydrogen pressure of 10 atm. for 24 hours. The reaction mixture is heated to reflux temperature and stirred at this temperature for 5 minutes. The mixture is filtered hot and the catalyst is washed five times with 33 ml of a 1:1 mixture of methanol and dichloro methane each. The united mother lyes are evaporated. The precipitated crude product is recrystallized from a mixture of acetonitrile and water. Thus 1.12 g of the desired compound are obtained. Yield 73.8%.

reactant | 5-{2-[4-(6-fluoro-1,2-benzisoxazole-3-yl)-piperidine-1-yl]-propylamino}-4-chloro2-methyl-2H-pyridazine-3-one | 0.0039 mole, 1.64 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)C(CNC2=C(C(N(N=C2)C)=O)Cl)C)C=C1 | C20H23ClFN5O2
reactant | methanol | CO | CH4O
reactant | sodium hydroxide | 0.0456 mole, 0.18 g | [OH-].[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium/charcoal | 3.2 g | [Pd] | Pd
solvent | water | O | H2O
product | 5-{2-[4-[1-(4-fluoro-2-hydroxy-phenyl)-methanoyl]-piperidine-1-yl]-propylamino}-2-methyl-2H-pyridazine-3-one | 1.12 g, Yield 73.8% | FC1=CC(=C(C=C1)C(=O)C1CCN(CC1)C(CNC1=CC(N(N=C1)C)=O)C)O | C20H25FN4O3
